US04550166
A mixture of 5.3 g of 2-(2-pyridinyl)-6-(1H)-pyridinone and 100 ml of phosphorus oxychloride was heated on a steam bath for 18 hours and then concentrated to dryness under vacuum. Crushed ice was added to the oil residue and the mixture made basic with solid potassium carbonate. The mixture was then extracted with dichloromethane, the extracts treated with activated carbon, filtered and concentrated, giving a solid which was purified by chromatography on silica gel with ethyl acetate as solvent, giving 4.1 g of 6'-chloro-2,2'-bipyridine as white crystals, mp 60°-62° C.

reactant | 2-(2-pyridinyl)-6-(1H)-pyridinone | 5.3 g | N1=C(C=CC=C1)C=1NC(C=CC1)=O | C10H8N2O
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6'-chloro-2,2'-bipyridine | 4.1 g | ClC1=CC=CC(=N1)C1=NC=CC=C1 | C10H7ClN2
